US04465768
13.7 g of p-aminobenzoic acid was dispersed in a solution of 100 cc of water and 30 cc of 30% hydrochloric acid in an ordinary manner and the dispersion was cooled with ice. A solution of 8.3 g of sodium nitrite in 50 cc of water was added dropwise to the dispersion to effect the diazotization reaction. A solution of 10.1 g of sodium azide in 70 cc of water was added dropwise to the mixture, stirred for about one hour, filtered and vacuum-dried to obtain p-azidobenzoic acid. 5.4 g of the thus obtained p-azidobenzoic acid was dissolved in 10 cc of dimethylformamide and 25 g of thionyl chloride was added dropwise to the solution. The mixture was stirred for about one hour and the product was added dropwise to ice-water. After filtration followed by washing with water and vacuum drying, p-azidobenzoyl chloride was obtained.

reactant | p-azidobenzoic acid | N(=[N+]=[N-])C1=CC=C(C(=O)O)C=C1 | C7H5N3O2
reactant | thionyl chloride | 25 g | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 10 cc | CN(C=O)C | C3H7NO
product | p-azidobenzoyl chloride | N(=[N+]=[N-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClN3O
